US07943652B2
To a solution of 2-(3,5-diethyl-1H-pyrazol-4-yl)-ethanol (0.8 g, 4.8 mmol) in methylene chloride (20 mL) was added methanesulfonyl chloride (0.92 mL, 12 mmol) and triethylamine (2.0 mL, 14 mmol). The mixture was stirred at room temperature for 16 h and was loaded directly on to a silica gel column and eluted (methylene chloride/heptane followed by ethyl acetate/methylene chloride) to provide methanesulfonic acid 2-(3,5-diethyl-1-methanesulfonyl-1H-pyrazol-4-yl)-ethyl ester (940 mg, 41% yield).

reactant | 2-(3,5-diethyl-1H-pyrazol-4-yl)-ethanol | 4.8 mmol, 0.8 g | C(C)C1=NNC(=C1CCO)CC | C9H16N2O
reactant | methanesulfonyl chloride | 12 mmol, 0.92 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 14 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-(3,5-diethyl-1-methanesulfonyl-1H-pyrazol-4-yl)-ethyl ester | 940 mg, 41% yield | C(C)C1=NN(C(=C1CCOS(=O)(=O)C)CC)S(=O)(=O)C | C11H20N2O5S2
